US05100889
A. 5-Methyl-1,5-hexanediol
To 67 mL of a 3.0M solution of methylmagnesium bromide (201 mmol in ether) stirring at 0° C. under argon, was added dropwise a solution of valerolactone (5.0 g, 50 mmol) in 25 mL dry THF. A white precipitate was formed. After 30 minutes the reaction mixture was warmed up to room temperature. After 4.5 hours, the reaction was quenched with 12 mL of water and concentrated on a rotoevaporator. The residue was stirred with 50 mL EtOAc and 20 mL saturated aqueous NH4Cl. The 2 layers were separated. The aqueous layer was extracted twice more with EtOAc (50 mL each). The organic layers were combined and washed with brine, dried over MgSO4, and concentrated on a rotoevaporator to obtain 5.57 g (84%) of the title product. Rf is 0.35 in EtOAc; UV, Ce(SO4)2.

reactant | methylmagnesium bromide | 201 mmol | C[Mg]Br
reactant | valerolactone | 50 mmol, 5.0 g | C1(CCCCO1)=O | C5H8O2
reactant | THF | 25 mL | C1CCOC1 | C4H8O
product | 5-Methyl-1,5-hexanediol | 5.57 g, 84% | CC(CCCCO)(C)O | C7H16O2
